US07700634B2
1-(Cyclohexyl)methyl-3-{5-[(pyrrolidin-1-yl)methyl]-[1,2,4]thiadiazol-3-yl}-1H-indole-7-carbonitrile, hydrochloride salt
To a solution of methanesulfonic acid 3-(7-cyano-1-cyclohexylmethyl-1H-indol-3-yl)-[1,2,4]thiadiazol-5-ylmethyl ester (120 mg, 0.28 mmol) in dichloromethane (3 ml) was added pyrrolidine (0.12 ml, 1.4 mmol) and the reaction subjected to microwave irradiation at 100° C. for 5 minutes. The reaction was purified directly by flash column chromatography eluting with dichloromethane then 25-50% (v/v) ethyl acetate in heptane to afford the title compound (71 mg, 0.175 mmol) as the free base. The free base (35 mg, 0.086 mmol) was dissolved in dichloromethane (2 ml) and hydrogen chloride (1M solution in diethyl ether) was added. The mixture was concentrated in vacuo to afford the title compound as a 1:1 hydrochloride salt. 1H NMR (400 MHz, CD3OD): 1.06-1.36 (7H, m), 1.62-1.80 (5H, m), 1.91-2.07 (1H, m), 2.09-2.34 (2H, br m), 3.35-4.20 (4H, br m), 4.42 (2H, d, J 7), 5.07 (2H, s), 7.37 (1H, t, J 8), 7.69 (1H, dd, J 7, 1), 8.23 (1H, s); 8.84 (1H, dd, J 8, 1) EsIMS: m/z 406.4 [M+H]+.

reactant | methanesulfonic acid 3-(7-cyano-1-cyclohexylmethyl-1H-indol-3-yl)-[1,2,4]thiadiazol-5-ylmethyl ester | 0.28 mmol, 120 mg | C(#N)C=1C=CC=C2C(=CN(C12)CC1CCCCC1)C1=NSC(=N1)COS(=O)(=O)C | C20H22N4O3S2
reactant | pyrrolidine | 1.4 mmol, 0.12 ml | N1CCCC1 | C4H9N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | heptane | CCCCCCC | C7H16
product | 1-(Cyclohexyl)methyl-3-{5-[(pyrrolidin-1-yl)methyl]-[1,2,4]thiadiazol-3-yl}-1H-indole-7-carbonitrile, hydrochloride salt | 0.175 mmol, 71 mg | Cl.C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)C#N)C1=NSC(=N1)CN1CCCC1 | InChI=1S/C23H27N5S.ClH/c24-13-18-9-6-10-19-20(15-28(22(18)19)14-17-7-2-1-3-8-17)23-25-21(29-26-23)16-27-11-4-5-12-27;/h6,9-10,15,17H,1-5,7-8,11-12,14,16H2;1H
